US04514408
(a) 3-(4-hydroxypiperidinomethyl)phenol
To a solution of 0.2 mol of 3-hydroxybenzaldehyde in 100 ml of methanol, is added a solution of 0.4 mol of 4-hydroxypiperidine in 80 ml of methanol at about 20° C. To the mixture thus obtained 0.2 mol of sodium borohydride is added portionwise and under stirring, at the temperature of 20°-25° C. within about 90 minutes, then the reaction mixture is stirred 4 hours at room temperature and the solvent is evaporated under reduced pressure to dryness. The residue is taken up with ice and acidified with hydrochloric acid. The acid solution is washed twice with 40 ml of ethyl acetate and concentrated ammonium hydroxide is added thereto up to clearly basic reaction. The product which precipitates is filtered and crystallized from 400 ml of water. The product thus obtained melts at 156°-158° C. Yield: 66.8%.

reactant | 3-hydroxybenzaldehyde | 0.2 mol | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | 4-hydroxypiperidine | 0.4 mol | OC1CCNCC1 | C5H11NO
reactant | sodium borohydride | 0.2 mol | [BH4-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 80 ml | CO | CH4O
product | 3-(4-hydroxypiperidinomethyl)phenol | Yield: 66.8% | OC1CCN(CC1)CC=1C=C(C=CC1)O | C12H17NO2
